### PR TITLE
[Merged by Bors] - feat: DFA.acceptsFrom, DFA.map, DFA.equiv

### PR DESCRIPTION
**Pull request by lambda-fairy**
`acceptsFrom` is used in #11311 to define left quotients.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Computability/DFA.lean [hunk 1]
```diff
@@ -91,12 +92,22 @@ theorem evalFrom_of_append (start : σ) (x y : List α) :
...
-def accepts : Language α := {x | M.eval x ∈ M.accept}
+def accepts : Language α := M.acceptsFrom M.start
 #align DFA.accepts DFA.accepts
 
-theorem mem_accepts (x : List α) : x ∈ M.accepts ↔ M.evalFrom M.start x ∈ M.accept := by rfl
-#align DFA.mem_accepts DFA.mem_accepts
+theorem mem_accepts (x : List α) : x ∈ M.accepts ↔ M.eval x ∈ M.accept := by rfl
+
+theorem mem_accepts' (x : List α) : x ∈ M.accepts ↔ M.evalFrom M.start x ∈ M.accept := by rfl
+#align DFA.mem_accepts DFA.mem_accepts'
```
Comment (YaelDillies) [inline Mathlib/Computability/DFA.lean:110]: I don't think you need `mem_accepts'`
```suggestion
theorem mem_accepts (x : List α) : x ∈ M.accepts ↔ M.eval x ∈ M.accept := by rfl
#align DFA.mem_accepts DFA.mem_accepts
```

File: Mathlib/Computability/DFA.lean [hunk 2]
```diff
@@ -163,7 +174,50 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
   substs ha' hc'
   have h := M.evalFrom_of_pow hb hb'
-  rwa [mem_accepts, evalFrom_of_append, evalFrom_of_append, h, hc]
+  rwa [mem_accepts', evalFrom_of_append, evalFrom_of_append, h, hc]
 #align DFA.pumping_lemma DFA.pumping_lemma
 
+section Maps
+
+universe u' v'
+variable {α' : Type u'} {σ' : Type v'} (f : α ≃ α') (g : σ ≃ σ') (s : σ') (a : α') (x : List α')
```
Comment (YaelDillies) [inline Mathlib/Computability/DFA.lean:183]: No need specifying universes unless you're doing category theory
```suggestion
section Map
variable {α' σ' : Type*} (f : α ≃ α') (g : σ ≃ σ') (s : σ') (a : α') (x : List α')
```

File: Mathlib/Computability/DFA.lean [hunk 3]
```diff
@@ -163,7 +174,50 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+
+/-- Transforms the alphabet and states of a DFA. -/
+@[simps]
+def map (f : α' → α) (g : σ → σ') (h : σ' → σ) : DFA α' σ' where
+  step s a := g (M.step (h s) (f a))
+  start := g M.start
+  accept := g '' M.accept
+
+/-- Lifts equivalences on the alphabet and states to an equivalence on DFAs. -/
+def equiv (f : α ≃ α') (g : σ ≃ σ') : DFA α σ ≃ DFA α' σ' where
```
Comment (YaelDillies) [inline Mathlib/Computability/DFA.lean:193]: We usually use `congr` for this instead, eg `FreeGroup.freeGroupCongr` (which is not a great name either, but still)

File: Mathlib/Computability/DFA.lean [hunk 4]
```diff
@@ -163,7 +174,50 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+theorem equiv_evalFrom : (equiv f g M).evalFrom s x = g (M.evalFrom (g.symm s) (x.map f.symm)) := by
+  induction x using List.list_reverse_induction with
+  | base => simp
+  | ind x a ih => simp [ih]
+
+@[simp]
+theorem equiv_eval : (equiv f g M).eval x = g (M.eval (x.map f.symm)) := by simp [eval]
+
+@[simp]
+theorem equiv_accepts : (equiv f g M).accepts = List.map f '' M.accepts := by
```
Comment (YaelDillies) [inline Mathlib/Computability/DFA.lean:216]:
```suggestion
theorem equiv_accepts : (equiv f g M).accepts = List.map f.symm ⁻¹' M.accepts := by
```
Using the preimage of the inverse instead of the image has (usually) better definitional properties.

File: Mathlib/Computability/DFA.lean [hunk 5]
```diff
@@ -163,7 +174,50 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+
+universe u' v'
+variable {α' : Type u'} {σ' : Type v'} (f : α ≃ α') (g : σ ≃ σ') (s : σ') (a : α') (x : List α')
+
+/-- Transforms the alphabet and states of a DFA. -/
+@[simps]
+def map (f : α' → α) (g : σ → σ') (h : σ' → σ) : DFA α' σ' where
+  step s a := g (M.step (h s) (f a))
+  start := g M.start
+  accept := g '' M.accept
```
Comment (eric-wieser) [inline Mathlib/Computability/DFA.lean:190]: Should this be a preimage by `h` instead? Either way, I think the docstring needs to be clearer about the semantics of this operation, since I can't tell whether preimage or image is more correct.

File: Mathlib/Computability/DFA.lean [hunk 6]
```diff
@@ -163,7 +174,50 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+
+/-- Lifts equivalences on the alphabet and states to an equivalence on DFAs. -/
+def equiv (f : α ≃ α') (g : σ ≃ σ') : DFA α σ ≃ DFA α' σ' where
+  toFun M := M.map f.symm g g.symm
+  invFun M := M.map f g.symm g
+  left_inv M := by simp [map]
+  right_inv M := by simp [map]
+
```
Comment (eric-wieser) [inline Mathlib/Computability/DFA.lean:198]: Can you add a lemma about `equiv refl refl` and `(equiv e f).symm = equiv e.symm f.symm`?

File: Mathlib/Computability/DFA.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Computability/DFA.lean:190]: I suspect the answer is that we should have (at least) two things: `map : DFA α σ -> DFA α' σ` and `reindex : DFA α σ \~= DFA α σ'

File: Mathlib/Computability/DFA.lean [hunk 7]
```diff
@@ -163,7 +174,84 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+  | ind x a ih => simp [ih]
+
+@[simp]
+theorem reindex_eval (x : List α) : (reindex g M).eval x = g (M.eval x) := by simp [eval]
+
+@[simp]
+theorem reindex_accepts : (reindex g M).accepts = M.accepts := by
+  ext x
+  simp [mem_accepts]
+
```
Comment (eric-wieser) [inline Mathlib/Computability/DFA.lean:254]: Can you add a lemma that says `reindex` and `comap` commute?

File: Mathlib/Computability/DFA.lean [hunk 8]
```diff
@@ -163,7 +174,84 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+@[simp]
+theorem reindex_step (s : σ') (a : α) : (reindex g M).step s a = g (M.step (g.symm s) a) := by
+  simp [reindex]
+
+@[simp]
+theorem reindex_start : (reindex g M).start = g M.start := by simp [reindex]
+
+@[simp]
+theorem reindex_accept : (reindex g M).accept = g.symm ⁻¹' M.accept := by simp [reindex]
```
Comment (eric-wieser) [inline Mathlib/Computability/DFA.lean:238]: can `simps` generate these?

Comment (lambda-fairy) [reply Mathlib/Computability/DFA.lean]: Huh, I thought `simps` doesn't work on `Equiv`, but it turns out it does!

File: Mathlib/Computability/DFA.lean (hunk 5 above)
Comment (lambda-fairy) [reply Mathlib/Computability/DFA.lean]: Thanks both! Agree with the preimage. It does seem nicer not having an existential.

I take @YaelDillies' naming suggestion, except I call the former `comap`, since the mapping function goes "backwards". I also considered adding an equiv version for the alphabet but that's just `⟨comap f, comap f.symm⟩` so not very interesting.

File: Mathlib/Computability/DFA.lean (hunk 2 above)
Comment (lambda-fairy) [reply Mathlib/Computability/DFA.lean]: Done. It might be worth removing the existing universe declarations, but that can be done in another PR

File: Mathlib/Computability/DFA.lean (hunk 8 above)
Comment (lambda-fairy) [reply Mathlib/Computability/DFA.lean]: Nevermind. The `@[simps]` attribute generates `reindex_symm_step` etc. which conflict with the manually defined `reindex_symm`.

```
/- The `simpNF` linter reports:
SOME SIMP LEMMAS ARE NOT IN SIMP-NORMAL FORM.
see note [simp-normal form] for tips how to debug this.
https://leanprover-community.github.io/mathlib_docs/notes.html#simp-normal%20form -/
-- Mathlib.Computability.DFA
Error: ./././Mathlib/Computability/DFA.lean:219:3: error: DFA.reindex_symm_apply_step.{u_1, u, v} simp can prove this:
  by simp only [@DFA.reindex_symm, @DFA.reindex_apply_step, @Equiv.symm_symm]
One of the lemmas above could be a duplicate.
If that's not the case try reordering lemmas or adding @[priority].

Error: ./././Mathlib/Computability/DFA.lean:219:3: error: DFA.reindex_symm_apply_accept.{u_1, u, v} simp can prove this:
  by simp only [@DFA.reindex_symm, @DFA.reindex_apply_accept, @Equiv.symm_symm]
One of the lemmas above could be a duplicate.
If that's not the case try reordering lemmas or adding @[priority].
```

Comment (lambda-fairy) [reply Mathlib/Computability/DFA.lean]: I found out there's `@[simps foo bar baz]` syntax that lets me specify the projections explicitly.

File: Mathlib/Computability/DFA.lean (hunk 1 above)
Comment (lambda-fairy) [reply Mathlib/Computability/DFA.lean]: Sounds good. It was used in `pumping_lemma` but I replaced it with `rw [mem_accepts, eval]`.

File: Mathlib/Computability/DFA.lean [hunk 9]
```diff
@@ -163,7 +172,80 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+
+@[simp]
+theorem comap_evalFrom (s : σ) (x : List α') :
+    (M.comap f).evalFrom s x = M.evalFrom s (x.map f) := by
+  induction x using List.list_reverse_induction with
+  | base => simp
+  | ind x a ih => simp [ih]
+
+@[simp]
+theorem comap_eval (x : List α') : (M.comap f).eval x = M.eval (x.map f) := by simp [eval]
```
Comment (YaelDillies) [inline Mathlib/Computability/DFA.lean:200]:
```suggestion
theorem eval_comap (x : List α') : (M.comap f).eval x = M.eval (x.map f) := by simp [eval]
```

File: Mathlib/Computability/DFA.lean [hunk 10]
```diff
@@ -163,7 +172,80 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+
+@[simp]
+theorem comap_accepts : (M.comap f).accepts = List.map f ⁻¹' M.accepts := by
```
Comment (YaelDillies) [inline Mathlib/Computability/DFA.lean:203]:
```suggestion
theorem accepts_comap : (M.comap f).accepts = List.map f ⁻¹' M.accepts := by
```

File: Mathlib/Computability/DFA.lean [hunk 11]
```diff
@@ -163,7 +172,80 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+  right_inv M := by simp
+
+@[simp]
+theorem reindex_refl : reindex (Equiv.refl σ) M = M := rfl
+
+@[simp]
+theorem reindex_symm : (reindex (α := α) g).symm = reindex g.symm := rfl
+
+@[simp]
+theorem reindex_evalFrom (s : σ') (x : List α) :
```
Comment (YaelDillies) [inline Mathlib/Computability/DFA.lean:233]:
```suggestion
theorem evalFrom_reindex (s : σ') (x : List α) :
```

File: Mathlib/Computability/DFA.lean [hunk 12]
```diff
@@ -163,7 +172,80 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+    accept := g ⁻¹' M.accept
+  }
+  left_inv M := by simp
+  right_inv M := by simp
+
+@[simp]
+theorem reindex_refl : reindex (Equiv.refl σ) M = M := rfl
+
+@[simp]
+theorem reindex_symm : (reindex (α := α) g).symm = reindex g.symm := rfl
```
Comment (YaelDillies) [inline Mathlib/Computability/DFA.lean:230]:
```suggestion
theorem symm_reindex : (reindex (α := α) g).symm = reindex g.symm := rfl
```

File: Mathlib/Computability/DFA.lean [hunk 13]
```diff
@@ -163,7 +172,80 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+
+@[simp]
+theorem reindex_evalFrom (s : σ') (x : List α) :
+    (reindex g M).evalFrom s x = g (M.evalFrom (g.symm s) x) := by
+  induction x using List.list_reverse_induction with
+  | base => simp
+  | ind x a ih => simp [ih]
+
+@[simp]
+theorem reindex_eval (x : List α) : (reindex g M).eval x = g (M.eval x) := by simp [eval]
```
Comment (YaelDillies) [inline Mathlib/Computability/DFA.lean:240]:
```suggestion
theorem eval_reindex (x : List α) : (reindex g M).eval x = g (M.eval x) := by simp [eval]
```

File: Mathlib/Computability/DFA.lean [hunk 14]
```diff
@@ -163,7 +172,80 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+
+@[simp]
+theorem reindex_accepts : (reindex g M).accepts = M.accepts := by
```
Comment (YaelDillies) [inline Mathlib/Computability/DFA.lean:243]:
```suggestion
theorem accepts_reindex : (reindex g M).accepts = M.accepts := by
```

File: Mathlib/Computability/DFA.lean [hunk 15]
```diff
@@ -163,7 +172,80 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+  ext x
+  simp [mem_accepts]
+
+theorem reindex_comap : (reindex g M).comap f = reindex g (M.comap f) := by simp [comap, reindex]
```
Comment (YaelDillies) [inline Mathlib/Computability/DFA.lean:247]:
```suggestion
theorem comap_reindex : (reindex g M).comap f = reindex g (M.comap f) := by simp [comap, reindex]
```

File: Mathlib/Computability/DFA.lean [hunk 16]
```diff
@@ -163,7 +172,80 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+def comap : DFA α' σ where
+  step s a := M.step s (f a)
+  start := M.start
+  accept := M.accept
+
+@[simp]
+theorem comap_id : M.comap id = M := rfl
+
+@[simp]
+theorem comap_evalFrom (s : σ) (x : List α') :
```
Comment (YaelDillies) [inline Mathlib/Computability/DFA.lean:193]:
```suggestion
theorem evalFrom_comap (s : σ) (x : List α') :
```

**Review by YaelDillies — COMMENTED** [review]
Use of dot notation should not change the name of the lemma. A lemma of the form `(foo a).bar = _` should be called `bar_foo`, not `foo_bar`.

File: Mathlib/Computability/DFA.lean [hunk 17]
```diff
@@ -91,11 +92,19 @@ theorem evalFrom_of_append (start : σ) (x y : List α) :
   x.foldl_append _ _ y
 #align DFA.eval_from_of_append DFA.evalFrom_of_append
 
+/--
+`M.acceptsFrom start` is the language of `x` such that `M.evalFrom start x` is an accept state.
+-/
+def acceptsFrom (start : σ) : Language α := {x | M.evalFrom start x ∈ M.accept}
+
+theorem mem_acceptsFrom (start : σ) (x : List α) :
+    x ∈ M.acceptsFrom start ↔ M.evalFrom start x ∈ M.accept := by rfl
```
Comment (YaelDillies) [inline Mathlib/Computability/DFA.lean:101]:
```suggestion
theorem mem_acceptsFrom {start : σ} {x : List α} :
    x ∈ M.acceptsFrom start ↔ M.evalFrom start x ∈ M.accept := by rfl
```
Btw should that lemma be simp?

File: Mathlib/Computability/DFA.lean [hunk 18]
```diff
@@ -91,11 +92,19 @@ theorem evalFrom_of_append (start : σ) (x y : List α) :
...
+
 /-- `M.accepts` is the language of `x` such that `M.eval x` is an accept state. -/
-def accepts : Language α := {x | M.eval x ∈ M.accept}
+def accepts : Language α := M.acceptsFrom M.start
 #align DFA.accepts DFA.accepts
 
-theorem mem_accepts (x : List α) : x ∈ M.accepts ↔ M.evalFrom M.start x ∈ M.accept := by rfl
+theorem mem_accepts (x : List α) : x ∈ M.accepts ↔ M.eval x ∈ M.accept := by rfl
```
Comment (YaelDillies) [inline Mathlib/Computability/DFA.lean:107]:
```suggestion
theorem mem_accepts {x : List α} : x ∈ M.accepts ↔ M.eval x ∈ M.accept := by rfl
```
Similarly, should that be simp?

File: Mathlib/Computability/DFA.lean [hunk 19]
```diff
@@ -163,7 +172,80 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
   have h := M.evalFrom_of_pow hb hb'
-  rwa [mem_accepts, evalFrom_of_append, evalFrom_of_append, h, hc]
+  rwa [mem_accepts, eval, evalFrom_of_append, evalFrom_of_append, h, hc]
 #align DFA.pumping_lemma DFA.pumping_lemma
 
+section Maps
+
+variable {α' σ' : Type*} (f : α' → α) (g : σ ≃ σ')
+
+/-- Transforms the alphabet of a DFA. -/
```
Comment (YaelDillies) [inline Mathlib/Computability/DFA.lean:182]: I think you can be more precise than "transforms"

File: Mathlib/Computability/DFA.lean [hunk 20]
```diff
@@ -163,7 +172,80 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+  toFun M := {
+    step := fun s a => g (M.step (g.symm s) a)
+    start := g M.start
+    accept := g.symm ⁻¹' M.accept
+  }
+  invFun M := {
+    step := fun s a => g.symm (M.step (g s) a)
+    start := g.symm M.start
+    accept := g ⁻¹' M.accept
+  }
```
Comment (YaelDillies) [inline Mathlib/Computability/DFA.lean:222]: @digama0, this is a good example of situation where we really want nested `where` notation

Comment (eric-wieser) [reply Mathlib/Computability/DFA.lean:222]: Or  `step s a := g.symm (M.step (g s) a)` notation within `{}`

Comment (lambda-fairy) [reply Mathlib/Computability/DFA.lean:222]: Yep, I remember trying both of those syntaxes and realizing neither work 😢

File: Mathlib/Computability/DFA.lean (hunk 17 above)
Comment (lambda-fairy) [reply Mathlib/Computability/DFA.lean]: As [discussed on Zulip](https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/.2311372.20DFA.2EacceptsFrom.2C.20DFA.2Emap.2C.20DFA.2Eequiv/near/427126311), I added some notes on this to the header docs.

File: Mathlib/Computability/DFA.lean (hunk 19 above)
Comment (lambda-fairy) [reply Mathlib/Computability/DFA.lean]: I added some more detail – LMK what you think!

```lean
/--
`M.comap f` pulls back the alphabet of `M` along `f`. In other words, it applies `f` to the input
before passing it to `M`.
-/
```

File: Mathlib/Computability/DFA.lean [hunk 21]
```diff
@@ -91,11 +102,19 @@ theorem evalFrom_of_append (start : σ) (x y : List α) :
   x.foldl_append _ _ y
 #align DFA.eval_from_of_append DFA.evalFrom_of_append
 
+/--
+`M.acceptsFrom start` is the language of `x` such that `M.evalFrom start x` is an accept state.
+-/
+def acceptsFrom (start : σ) : Language α := {x | M.evalFrom start x ∈ M.accept}
```
Comment (madvorak) [inline Mathlib/Computability/DFA.lean:108]: I would call the argument just `(s : σ)`. The current name has a potential for confusion with `M.start`.

File: Mathlib/Computability/DFA.lean [hunk 22]
```diff
@@ -91,11 +102,19 @@ theorem evalFrom_of_append (start : σ) (x y : List α) :
...
+
+theorem mem_acceptsFrom {start : σ} {x : List α} :
```
Comment (madvorak) [inline Mathlib/Computability/DFA.lean:110]: Some tag?

File: Mathlib/Computability/DFA.lean [hunk 23]
```diff
@@ -163,7 +182,83 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+section Maps
+
+variable {α' σ' : Type*} (f : α' → α) (g : σ ≃ σ')
+
+/--
+`M.comap f` pulls back the alphabet of `M` along `f`. In other words, it applies `f` to the input
+before passing it to `M`.
+-/
+@[simps]
+def comap : DFA α' σ where
```
Comment (madvorak) [inline Mathlib/Computability/DFA.lean:197]: I am confused by explicit arguments being inserted from `variable`. Afaik this is a matter of style and you can keep it your way.

File: Mathlib/Computability/DFA.lean [hunk 24]
```diff
@@ -163,7 +182,83 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
   rw [Set.mem_singleton_iff] at ha' hc'
   substs ha' hc'
   have h := M.evalFrom_of_pow hb hb'
-  rwa [mem_accepts, evalFrom_of_append, evalFrom_of_append, h, hc]
+  rwa [mem_accepts, eval, evalFrom_of_append, evalFrom_of_append, h, hc]
 #align DFA.pumping_lemma DFA.pumping_lemma
 
+section Maps
+
+variable {α' σ' : Type*} (f : α' → α) (g : σ ≃ σ')
```
Comment (madvorak) [inline Mathlib/Computability/DFA.lean:190]: The `g` first appears in `def reindex`.

File: Mathlib/Computability/DFA.lean [hunk 25]
```diff
@@ -163,7 +182,83 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+theorem accepts_comap : (M.comap f).accepts = List.map f ⁻¹' M.accepts := by
+  ext x
+  conv =>
+    rhs
+    rw [Set.mem_preimage, mem_accepts]
+  simp [mem_accepts]
+
+/-- Lifts an equivalence on states to an equivalence on DFAs. -/
+@[simps apply_step apply_start apply_accept]
+def reindex : DFA α σ ≃ DFA α σ' where
```
Comment (madvorak) [inline Mathlib/Computability/DFA.lean:225]: I am a bit suspicious that somebody might later need a more general version than `σ ≃ σ'` but I don't mind keeping this definition as it is.

File: Mathlib/Computability/DFA.lean [hunk 26]
```diff
@@ -163,7 +182,83 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+@[simp]
+theorem accepts_comap : (M.comap f).accepts = List.map f ⁻¹' M.accepts := by
+  ext x
+  conv =>
+    rhs
+    rw [Set.mem_preimage, mem_accepts]
+  simp [mem_accepts]
+
+/-- Lifts an equivalence on states to an equivalence on DFAs. -/
+@[simps apply_step apply_start apply_accept]
```
Comment (madvorak) [inline Mathlib/Computability/DFA.lean:224]: I don't know what `simps` does, so I will leave this line for someone else to review.

File: Mathlib/Computability/DFA.lean [hunk 27]
```diff
@@ -163,7 +182,83 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+
+@[simp]
+theorem reindex_refl : reindex (Equiv.refl σ) M = M := rfl
+
+@[simp]
+theorem symm_reindex : (reindex (α := α) g).symm = reindex g.symm := rfl
+
+@[simp]
+theorem evalFrom_reindex (s : σ') (x : List α) :
+    (reindex g M).evalFrom s x = g (M.evalFrom (g.symm s) x) := by
```
Comment (madvorak) [inline Mathlib/Computability/DFA.lean:247]: Why is `(g.symm s)` better than `(g.invFun s)` in the statement? The proof would stay the same.

Comment (eric-wieser) [reply Mathlib/Computability/DFA.lean:247]: `.invFun` should never appear in any statement

Comment (madvorak) [reply Mathlib/Computability/DFA.lean:247]: The current statement is interpreted as `(reindex g M).evalFrom s x = g (M.evalFrom (g.symm.toFun s) x)` afaik.

Comment (madvorak) [reply Mathlib/Computability/DFA.lean:247]: I don't want to argue against the current version. Just tell me why we don't go with the more elementary version. I am not asking you to change it. Just please explain it to me.

File: Mathlib/Computability/DFA.lean (hunk 25 above)
Comment (YaelDillies) [reply Mathlib/Computability/DFA.lean:225]: What would the more general version look like?

File: Mathlib/Computability/DFA.lean (hunk 27 above)
Comment (YaelDillies) [reply Mathlib/Computability/DFA.lean:247]: > The current statement is interpreted as `(reindex g M).evalFrom s x = g (M.evalFrom (g.symm.toFun s) x)` afaik.

No that's not right. It's interpreted as `(reindex g M).evalFrom s x = ⇑g (M.evalFrom (⇑g.symm s) x)` where `⇑` is `FunLike.coe`.

`g.invFun` is not used because we've decided to use `⇑g.symm` instead as it gives access to more API. That's it, really.

File: Mathlib/Computability/DFA.lean (hunk 21 above)
Comment (YaelDillies) [reply Mathlib/Computability/DFA.lean:108]: I agree that I currently read it as a declaration name, not a variable name.

File: Mathlib/Computability/DFA.lean (hunk 19 above)
Comment (YaelDillies) [reply Mathlib/Computability/DFA.lean]: Looks good!

File: Mathlib/Computability/DFA.lean (hunk 25 above)
Comment (madvorak) [reply Mathlib/Computability/DFA.lean:225]: In my project, I ended up needing this construction:
https://github.com/madvorak/chomsky/blob/a27e2145c36b0a96faf405cb415d020dae97b04a/Grammars/Classes/Unrestricted/Basics/Lifting.lean#L35

The explanation (but written for Lean 3) is here:
https://arxiv.org/abs/2302.06420 (page 6)

I don't have a particular argument why something similar should be useful for DFAs, just a gut feeling.

File: Mathlib/Computability/DFA.lean (hunk 22 above)
Comment (YaelDillies) [reply Mathlib/Computability/DFA.lean:110]: See https://github.com/leanprover-community/mathlib4/pull/11372#discussion_r1527500415

File: Mathlib/Computability/DFA.lean (hunk 23 above)
Comment (YaelDillies) [reply Mathlib/Computability/DFA.lean:197]: I agree it is quite confusing. I prefer to get exactly the implicit arguments from `variable` statements

File: Mathlib/Computability/DFA.lean (hunk 26 above)
Comment (YaelDillies) [reply Mathlib/Computability/DFA.lean:224]: It's okay

File: Mathlib/Computability/DFA.lean (hunk 21 above)
Comment (madvorak) [reply Mathlib/Computability/DFA.lean:108]: That's what I meant, thanks for putting it into appropriate words!

File: Mathlib/Computability/DFA.lean (hunk 25 above)
Comment (madvorak) [reply Mathlib/Computability/DFA.lean:225]: The analogy is a bit obfuscated by the fact that what you call `σ` is bundled into the structure in my project.

File: Mathlib/Computability/DFA.lean (hunk 27 above)
Comment (lambda-fairy) [reply Mathlib/Computability/DFA.lean:247]: I believe the reason is that there are many more lemmas for `.symm`. The only lemmas I could find for `.invFun` are those that convert it to `.symm`.

Also, because `Equiv.invFun_as_coe` is a simp lemma, its RHS (`⇑e.symm`) is considered the normal form. I'm not 100% sure on this, but it'll probably trigger a linter warning if we use `invFun` instead.

File: Mathlib/Computability/DFA.lean (hunk 23 above)
Comment (madvorak) [reply Mathlib/Computability/DFA.lean:197]: This is exactly what I would do, but I don't want to impose my style on others so much. I guess if I really care about it, I should make a RFC for a convention to use `variable` only with `{}` and `[]` and possibly a linter for that, which does not belong to this PR. So @lambda-fairy feel free to ignore this comment. At this moment, this style issue is up to you.

File: Mathlib/Computability/DFA.lean (hunk 26 above)
Comment (madvorak) [reply Mathlib/Computability/DFA.lean:224]: Thanks for the check!

File: Mathlib/Computability/DFA.lean (hunk 25 above)
Comment (madvorak) [reply Mathlib/Computability/DFA.lean:225]: I guess it might come handy when proving that regular expressions and DFAs are equivalent (TODO in `RegularExpressions.lean`).

Comment (madvorak) [reply Mathlib/Computability/DFA.lean:225]: However, it would probably be done on the `NFA` structure, so irrelevant for now I guess.

File: Mathlib/Computability/DFA.lean (hunk 21 above)
Comment (lambda-fairy) [reply Mathlib/Computability/DFA.lean]: Thanks, renamed to `s`.

File: Mathlib/Computability/DFA.lean (hunk 23 above)
Comment (lambda-fairy) [reply Mathlib/Computability/DFA.lean]: I don't really mind either way. I've changed it to be more explicit.

File: Mathlib/Computability/DFA.lean [hunk 28]
```diff
@@ -17,6 +18,16 @@ determines whether a string (implemented as a list over an arbitrary alphabet) i
...
+
+## Implementation notes
+
+Currently, there are two disjoint sets of simp lemmas: one for `DFA.eval`, and another for
+`DFA.evalFrom`. You can switch from the former to the latter using `simp [eval]`.
+
+TODO:
+- Should we unify these simp sets, such that `eval` is rewritten to `evalFrom` automatically?
+- Should `mem_accepts` and `mem_acceptsFrom` be marked `@[simp]`? This depends on the question
+  above, as they map to `eval` and `evalFrom` respectively.
```
Comment (YaelDillies) [inline Mathlib/Computability/DFA.lean:30]: I don't think it depends on the question above, assuming the question above also talks about `accepts` vs `acceptsFrom`

File: Mathlib/Computability/DFA.lean [hunk 29]
```diff
@@ -17,6 +18,16 @@ determines whether a string (implemented as a list over an arbitrary alphabet) i
 in linear time.
 Note that this definition allows for Automaton with infinite states, a `Fintype` instance must be
 supplied for true DFA's.
+
+## Implementation notes
+
+Currently, there are two disjoint sets of simp lemmas: one for `DFA.eval`, and another for
+`DFA.evalFrom`. You can switch from the former to the latter using `simp [eval]`.
+
+TODO:
```
Comment (YaelDillies) [inline Mathlib/Computability/DFA.lean:27]:
```suggestion
## TODO

```

File: Mathlib/Computability/DFA.lean (hunk 28 above)
Comment (lambda-fairy) [reply Mathlib/Computability/DFA.lean]: I've removed that sentence.

File: Mathlib/Computability/DFA.lean [hunk 30]
```diff
@@ -163,7 +182,87 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+section Maps
+
+variable {α' σ' : Type*}
+
+/--
+`M.comap f` pulls back the alphabet of `M` along `f`. In other words, it applies `f` to the input
+before passing it to `M`.
+-/
+@[simps]
+def comap (f : α' → α) : DFA α' σ where
```
Comment (YaelDillies) [inline Mathlib/Computability/DFA.lean:197]:
```suggestion
def comap (f : α' → α) (M : DFA α σ) : DFA α' σ where
```
so that `comap f` makes sense

**Comment by lambda-fairy** [comment]
Sorry about the wait! Should be ready for review again. PTAL!

**Review by YaelDillies — APPROVED** [review]
maintainer merge

**Comment by semorrison** [comment]
bors merge
